US07582629B2
N-[4-(Difluoromethoxy)benzyl]-1-phenylmethanesulfonamide
4-(Difluoromethoxy)benzyl amine (1.73 g, 9.97 mmol) was dissolved in THF (10 mL). It was cooled in an ice-bath. Under nitrogen atmosphere, triethylamine (1.46 mL, 10.46 mmol) was added and then benzylsulfonyl chloride (1.9 g, 9.97 mmol) in THF (10 mL) was dropped in. The cooling bath was removed after the addition. The mixture was stirred for 3 h and then evaporated to dryness. DCM (50 mL) was added to the residue. It was then washed with 1% HCl (15 mL), water (50 mL×3) and brine, dried (MgSO4) and evaporated to give the title compound (3.01 g. 92%) as a solid; 1H NMR (400 MHz, CDCl3): δ 7.32-7.40 (m, 5H), 7.26 (d, 2H), 7.09 (d, 2H), 6.49 (t, 1H), 4.36 (bt, 1H), 4.24 (s, 2H), 4.10 (d, 2H); Mass Spectrum: M−H+ 326.

reactant | 4-(Difluoromethoxy)benzyl amine | 9.97 mmol, 1.73 g | FC(OC1=CC=C(CN)C=C1)F | C8H9F2NO
reactant | triethylamine | 10.46 mmol, 1.46 mL | C(C)N(CC)CC | C6H15N
reactant | benzylsulfonyl chloride | 9.97 mmol, 1.9 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[4-(Difluoromethoxy)benzyl]-1-phenylmethanesulfonamide | 3.01 g, 92% | FC(OC1=CC=C(CNS(=O)(=O)CC2=CC=CC=C2)C=C1)F | C15H15F2NO3S
